US06518273B1
5-Methyl-2-phenyl-1H-indole-3-propanoic Acid
Triethylamine (1.4 mL, 10 mmol) was added to a stirred suspension of δ-oxobenzenepentanoic acid (1.92 g, 10 mmol) and (4-methylphenyl)hydrazine hydrochloride (1.59 g, 10 mmol) in ethanol (16 mL) and the mixture was stirred at room temperature for 4 h. Ether (100 mL) was added, the mixture was filtered and the solvent was evaporated under reduced pressure. The residue was added slowly to trifluoroacetic acid (15 mL) and the mixture was heated under reflux for 2 h. The mixture was cooled, water (100 mL) was added and the mixture was extracted with ethyl acetate (100 mL). The organic fraction was washed with brine (30 mL), dried (MgSO4) and the volume was reduced to Ca. 10 mL by evaporation under reduced pressure. The precipitate was collected and recrystallized from ether to give the title compound as a pale solid (1.51 g, 54%). 1H NMR (360 MHz, DMSO-d6) δ2.39 (3H, s), 2.50-2.58 (2H, m), 3.03-3.09 (2H, m), 6.91-6.95 (1H, m), 7.23-7.25 (1H, m), 7.34-7.40 (2H, m), 7.47-7.63 (4H, m), 11.4 (1H, br s), and 12.25 (1H, br s). m/z (ES+) 280 (M+1).

reactant | Triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | δ-oxobenzenepentanoic acid | 10 mmol, 1.92 g | O=C(CCCC(=O)O)C1=CC=CC=C1 | C11H12O3
reactant | (4-methylphenyl)hydrazine hydrochloride | 10 mmol, 1.59 g | Cl.CC1=CC=C(C=C1)NN
reactant | Ether | 100 mL | CCOCC | C4H10O
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | 5-Methyl-2-phenyl-1H-indole-3-propanoic Acid | 1.51 g, 54% | CC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)CCC(=O)O | C18H17NO2
